### PR TITLE
Add lemmas about kl and condKL

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add lemmas about kl and condKL that do not depend on changes in other files

### CODE REVIEW

File: TestingLowerBounds/KullbackLeibler.lean [hunk 1]
```diff
@@ -171,14 +172,33 @@ lemma kl_eq_zero_iff [SigmaFinite μ] [SigmaFinite ν] : kl μ ν = 0 ↔ μ = 
...
+
+/--Equivalence between two possible versions of the first condition for the finiteness of the
+conditional KL divergence, the second version is the preferred one.-/
+lemma kl_ae_ne_top_iff : (∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤) ↔
+    (∀ᵐ a ∂μ, κ a ≪ η a) ∧ (∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a)) := by
+  constructor <;> intro h
+  · constructor <;> filter_upwards [h] with a ha <;> have := kl_eq_top_iff.mpr.mt ha <;> tauto
+  · filter_upwards [h.1, h.2] with a ha1 ha2
+    apply kl_eq_top_iff.mp.mt
+    tauto
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: Untested, but something along that line should work, no?
```suggestion
  simp_rw [ne_eq, kl_eq_top_iff, Filter.eventually_and]
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 2]
```diff
@@ -171,14 +172,33 @@ lemma kl_eq_zero_iff [SigmaFinite μ] [SigmaFinite ν] : kl μ ν = 0 ↔ μ = 
...
+
+/--Equivalence between two possible versions of the second condition for the finiteness of the
+conditional KL divergence, the first version is the preferred one.-/
+lemma integrable_kl_iff (h_ac : ∀ᵐ a ∂μ, κ a ≪ η a)
+    (h_int : ∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a)):
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
    (h_int : ∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a)) :
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 3]
```diff
@@ -226,14 +258,19 @@ lemma condKL_of_not_integrable (h : ¬ Integrable (fun a ↦ (kl (κ a) (η a)).
...
-    have h1 := of_not_not (condKL_of_not_ae_ac.mt h)
-    have h2 := of_not_not (condKL_of_not_ae_ne_top.mt h)
-    filter_upwards [h1, h2] with a ha1 ha2
-    rw [kl_of_ac_of_integrable ha1 (of_not_not (kl_of_not_integrable.mt ha2))]
-    simp only [EReal.toReal_coe]
-  exact Integrable.congr (of_not_not (condKL_of_not_integrable.mt h)) hh.symm
+  by_cases h_ne_top : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤
+  swap ; exact condKL_of_not_ae_ne_top h_ne_top
+  apply condKL_of_not_integrable
+  rwa [integrable_kl_iff (kl_ae_ne_top_iff.mp h_ne_top).1  (kl_ae_ne_top_iff.mp h_ne_top).2]
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  rwa [integrable_kl_iff (kl_ae_ne_top_iff.mp h_ne_top).1 (kl_ae_ne_top_iff.mp h_ne_top).2]
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 4]
```diff
@@ -197,27 +217,39 @@ lemma condKL_of_ae_ne_top_of_integrable (h1 : ∀ᵐ a ∂μ, kl (κ a) (η a) 
...
+lemma condKL_of_ae_ac_of_ae_integrable_of_integrable (h_ac : ∀ᵐ a ∂μ, κ a ≪ η a)
+    (h_ae_int : ∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a))
+    (h_int : Integrable (fun a ↦ (kl (κ a) (η a)).toReal) μ) :
+    condKL κ η μ = (μ[fun a ↦ (kl (κ a) (η a)).toReal] : ℝ) :=
+  condKL_of_ae_ne_top_of_integrable (kl_ae_ne_top_iff.mpr ⟨h_ac, h_ae_int⟩) h_int
+
+lemma condKL_of_ae_ac_of_ae_integrable_of_integrable' (h_ac : ∀ᵐ a ∂μ, κ a ≪ η a)
+    (h_ae_int : ∀ᵐ a ∂μ, Integrable (llr (κ a) (η a)) (κ a))
+    (h_int : Integrable (fun a ↦ (kl (κ a) (η a)).toReal) μ) :
+    condKL κ η μ = (μ[fun a ↦ integral (κ a) (llr (κ a) (η a))] : ℝ) := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: Please use integral notation instead of `integral`.

File: TestingLowerBounds/KullbackLeibler.lean [hunk 5]
```diff
@@ -226,14 +258,19 @@ lemma condKL_of_not_integrable (h : ¬ Integrable (fun a ↦ (kl (κ a) (η a)).
...
-  contrapose! h
-  have hh : (fun a => integral (κ a) (llr (κ a) (η a))) =ᵐ[μ] fun a => (kl (κ a) (η a)).toReal := by
-    have h1 := of_not_not (condKL_of_not_ae_ac.mt h)
-    have h2 := of_not_not (condKL_of_not_ae_ne_top.mt h)
-    filter_upwards [h1, h2] with a ha1 ha2
-    rw [kl_of_ac_of_integrable ha1 (of_not_not (kl_of_not_integrable.mt ha2))]
-    simp only [EReal.toReal_coe]
-  exact Integrable.congr (of_not_not (condKL_of_not_integrable.mt h)) hh.symm
+  by_cases h_ne_top : ∀ᵐ a ∂μ, kl (κ a) (η a) ≠ ⊤
+  swap ; exact condKL_of_not_ae_ne_top h_ne_top
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]:
```suggestion
  swap; exact condKL_of_not_ae_ne_top h_ne_top
```

File: TestingLowerBounds/KullbackLeibler.lean [hunk 6]
```diff
@@ -226,14 +258,19 @@ lemma condKL_of_not_integrable (h : ¬ Integrable (fun a ↦ (kl (κ a) (η a)).
...
+  apply condKL_of_not_integrable
+  rwa [integrable_kl_iff (kl_ae_ne_top_iff.mp h_ne_top).1  (kl_ae_ne_top_iff.mp h_ne_top).2]
+
+lemma condKL_eq_top_iff : condKL κ η μ = ⊤ ↔
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean:262]: add a `condKL_ne_top_iff` lemma?

File: TestingLowerBounds/KullbackLeibler.lean (hunk 1 above)
Comment (RemyDegenne) [reply TestingLowerBounds/KullbackLeibler.lean]: Given that this lemma is really just putting an almost everywhere around `kl_eq_top_iff`, perhaps it's not needed?

Comment (LorenzoLuccioli) [reply TestingLowerBounds/KullbackLeibler.lean]: In the cases where we just rewrite the lemma it could indeed be substituted by this one line proof, but I think it would be harder to use it without the wrapped version when we need it inside the argument of some other lemma, like in the proof of 'condKL_of_ae_ac_of_ae_integrable_of_integrable':
'condKL_of_ae_ne_top_of_integrable (kl_ae_ne_top_iff.mpr ⟨h_ac, h_ae_int⟩) h_int'

File: TestingLowerBounds/KullbackLeibler.lean [hunk 7]
```diff
@@ -90,11 +90,12 @@ lemma kl_eq_fDiv [SigmaFinite μ] [SigmaFinite ν] :
 lemma kl_self (μ : Measure α) [SigmaFinite μ] : kl μ μ = 0 := by
   rw [kl_eq_fDiv, fDiv_self (by norm_num)]
 
-lemma kl_eq_top_iff [IsFiniteMeasure μ] [SigmaFinite ν] :
-    kl μ ν = ⊤ ↔ μ ≪ ν → ¬ Integrable (llr μ ν) μ := by
-  rw [kl_eq_fDiv, fDiv_mul_log_eq_top_iff]
-
--- TODO : add the equivalent of integrable_fDiv_iff for kl
+lemma kl_eq_top_iff : kl μ ν = ⊤ ↔ ¬ μ ≪ ν ∨ ¬ Integrable (llr μ ν) μ := by
```
Comment (RemyDegenne) [inline TestingLowerBounds/KullbackLeibler.lean]: `simp` simplifies expressions to `a → b` rather than `¬ a ∨ b`, so it's better to put our hypotheses and conclusions in that form.
```suggestion
lemma kl_eq_top_iff : kl μ ν = ⊤ ↔ μ ≪ ν → ¬ Integrable (llr μ ν) μ := by
```

**Review by RemyDegenne — APPROVED** [review]
